US05808135
Example Ia-5
A mixture of the compounds according to Example Ia-3 and Ia-4 (cis-trans mixture) (300 mg), trifluoroacetic acid (10 ml) and water (10 ml) is stirred at room temperature for 24 hours and concentrated. The solid residue is washed with hot cyclohexane.

reactant | Ia-3 | CC[NH+](CC)CCN1C2=C3C(=C(C=C2)C)SC4=C(C3=N1)C=CC(=C4)Cl.CS(=O)(=O)[O-]
reactant | Ia-4 | 300 mg | CCN(CC)CCN1C2=C3C(=C(C=C2)CO)SC4=C(C3=N1)C=CC(=C4)Cl | C20H22ClN3OS
reactant | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | 10 ml | O | H2O
product | Ia-5 | CCN(CC)CCN1C2=C3C(=C(C=C2)C)SC4=CC=CC=C4C3=N1 | C20H23N3S
